US07576072B2
Step F: Preparation of 6-bromo-7-fluoro-3-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylic acid methyl ester:
To a solution of 6-bromo-7-fluoro-3-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylic acid (1.00 equivalent) in THF-MeOH at 0° C. is added TMSCHN2 (1.30 equivalents, 2 M solution in hexanes). The resulting mixture is warmed to room temperature and stirred for 2 hours. The reaction is quenched with AcOH. The reaction mixture is diluted with EtOAc. The organic layer is washed with saturated aqueous NaHCO3 and brine, dried over MgSO4, filtered, and concentrated in vacuo to afford the desired product that is used directly without further purification.

reactant | 6-bromo-7-fluoro-3-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylic acid | 1.00 equivalent | BrC=1C(=C2C(=NC1C(=O)O)N(C=N2)C)F | C8H5BrFN3O2
reactant | TMSCHN2 | 2 M, 1.30 equivalents | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | THF MeOH | C1CCOC1.CO
product | 6-bromo-7-fluoro-3-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylic acid methyl ester | COC(=O)C1=C(C(=C2C(=N1)N(C=N2)C)F)Br | C9H7BrFN3O2
